US09056859B2
A solution of 5-[2-(4-{[2-ethenyl-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one (40 mg, 0.08 mmol) in 5 mL of DCM was added a solution of CH2N2 in 2 mL Et2O and Pd(OAc)2 (10 mg) at 0° C. The mixture was stirred at room temperature overnight. The reaction mixture was filtrated and purified by prep-TLC to afford 5-[2-(4-{[2-cyclopropyl-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one. 1H-NMR (400 MHz, CDCl3) δ ppm 9.0 (s, 1H), 7.76˜7.78 (m, 1H), 7.26˜7.4 (in, 5H), 5.22 (s, 2H), 3.88 (s, 2H), 3.49˜3.66 (m, 4H), 2.83˜2.93 (m, 2H), 2.6˜2.62 (m, 2H), 2.38˜2.48 (m, 4H), 2.0 (s, 1H), 0.94˜0.98 (m, 2H), 0.66˜0.68 (m, 2H).

reactant | 5-[2-(4-{[2-ethenyl-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one | 0.08 mmol, 40 mg | C(=C)C1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C25H26N6O3
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 2 mL | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-[2-(4-{[2-cyclopropyl-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one | C1(CC1)C1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C26H28N6O3
